US03952012
To a suspension of 16.6 g. (0.125 mole) of aluminum chloride in 60 ml. 1,2-dichloroethane is added 26.2 g. (0.125 mole) of 2,4-dichlorobenzoyl chloride. The resulting solution is added slowly to a solution of 15 g. (0.125 mole) of 1-methylpyrrole- 2-acetonitrile in 60 ml. 1,2-dichloroethane while cooling externally with an ice bath. After the addition is complete, the mixture is stirred for 40 minutes at room temperature followed by heating at reflux for 3 minutes. It is then poured into ice acidified with dilute hydrochloric acid. The organic phase is separated and washed successively with N,N-dimethyl-1,3-propanediamine, 3N hydrochloric acid, and saturated sodium chloride solution. It is then dried over magnesium sulfate and the solvent evaporated. The resulting red oily residue is chromatographed on a column packed with neutral alumina and eluted with benzene and ether. The first compound-bearing fractions upon evaporation yield a white solid, 5-(2',4'-dichlorobenzoyl)-1-methylpyrrole- 2-acetonitrile, which is purified by recrystallization from methanol, m.p. 129°-130°C.

reactant | aluminum chloride | 0.125 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dichlorobenzoyl chloride | 0.125 mole | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 1-methylpyrrole- 2-acetonitrile | 0.125 mole | CN1C(=CC=C1)CC#N | C7H8N2
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(2',4'-dichlorobenzoyl)-1-methylpyrrole- 2-acetonitrile | ClC1=C(C(=O)C2=CC=C(N2C)CC#N)C=CC(=C1)Cl | C14H10Cl2N2O
